* C:\Users\tomsa\Documents\SturcturedElectronics2021\Stuctured Electronic Design - Design Team 3\cir\assignment1 - DriveCapability.asc
M1 D G 0 0 C18nmos l={L} w={W} m={M}
Vg G 0 0
Vds D out {V_DS}
I2 0 D {I_D}
R_BF out Vout 50
R_Out 0 Vout {R_L}
;.dc Vg 0.2 1.6 0.01
.param W=50u L=0.18u M=12
.param V_DS=0.632 I_D=6.4m R_L=50
.lib CMOS18TT.lib
.backanno
.end
